US07632840B2
1-[({4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]cyclopent-3-ene-1-carboxylic acid was methylated by reaction with paraformaldehyde using an analogous method to that described for the equivalent step in Example 11 to give 1-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]cyclopent-3-ene-1-carboxylic acid; 1H NMR Spectrum: (DMSO-d6) 2.21 (s, 3H); 2.62 (d, 2H); 2.99 (d, 2H); 3.73 (s, 2H); 3.95 (s, 3H); 5.71 (s, 2H); 7.20 (s, 1H); 7.29 (t, 1H); 7.52 (m, 2H); 8.34 (s, 1H); 8.42 (s, 1H); 9.77 (s, 1H); Mass Spectrum: (M+H)+ 457.

reactant | 1-[({4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]cyclopent-3-ene-1-carboxylic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNC1(CC=CC1)C(=O)O)OC)F | C22H20ClFN4O3
reactant | paraformaldehyde | C=O | CH2O
product | 1-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]cyclopent-3-ene-1-carboxylic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CC=CC1)C(=O)O)C)OC)F | C23H22ClFN4O3
